US04124370
Preparation of 4-Chlorodiphenyl ether
A stirred solution containing 14.8 g (0.112 mole) of potassium phenoxide and 13.1 g (0.10 mole) of p-fluorochlorobenzene in 100 ml of N-methyl-2-pyrrolidinone is heated at reflux for a period of time necessary to effect complete reaction, as determined by vapor phase chromotography techniques. The crude reaction mixture is cooled and diluted to a volume of 400 ml with water, whereupon it is extracted with several portions of ether. The combined organic extracts are washed with a 5% sodium hydroxide solution, water, and a saturated sodium chloride solution, dried (magnesium sulfate), and concentrated in vacuo. Distillation at reduced pressure affords 11.1 g (54%) of material, b(0.05 mm) 73.5°-75.5°, whose spectral properties are in agreement with the desired structure.

reactant | potassium phenoxide | 0.112 mole, 14.8 g | [O-]C1=CC=CC=C1.[K+]
reactant | p-fluorochlorobenzene | 0.10 mole, 13.1 g | FC1=CC=C(C=C1)Cl | C6H4ClF
solvent | N-methyl-2-pyrrolidinone | 100 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 4-Chlorodiphenyl ether | 11.1 g, 54% | C1=CC=C(C=C1)OC2=CC=C(C=C2)Cl | C12H9ClO
